US04599448
144 g (2 mols) of isobutyraldehyde were added dropwise to a solution of 92 g (1 mol) of aniline, 250 ml of methylene chloride, 2 ml of dimethylbenzylamine and 150 g of anhydrous magnesium sulphate at 0° C. in the course of 1 hour, whilst stirring. The mixture was further stirred at from 0° to 10° C. for 5 hours and was filtered, and the residue was rinsed with 200 ml of methylene chloride. The combined organic phases were freed from solvent, in vacuo, at from 30° to 40° C. 155 g of crude N-isobutylideneaniline were obtained and were directly further reacted.

reactant | isobutyraldehyde | 2 mols, 144 g | C(C(C)C)=O | C4H8O
reactant | aniline | 1 mol, 92 g | NC1=CC=CC=C1 | C6H7N
reactant | dimethylbenzylamine | 2 ml | CN(CC1=CC=CC=C1)C | C9H13N
reactant | magnesium sulphate | 150 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-isobutylideneaniline | 155 g | C(C(C)C)=NC1=CC=CC=C1 | C10H13N
